data/rdb19/train.csv
rxn,smiles,ea
1013,[C:14]([O:15][C:16](=[O:17])[C:18](=[C:19]([H:24])[H:25])[C:20]([H:26])([H:27])[H:28])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:19]([C:18]([C:16]([O:15][C:14]([H:21])([H:22])[H:23])=[O:17])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],11.296490513603205
1360,[C:10]([C:11]([H:12])[H:13])([H:14])([H:15])[H:16].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10](=[C:11]([H:12])[H:13])([H:15])[H:16].[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[H:14])[H:6],50.8145008944266
2315,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([O:9][C:10](=[O:11])[C:12](=[C:13]([H:18])[H:19])[C:14]([H:20])([H:21])[H:22])([H:15])([H:16])[H:17]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:12]([C:10]([O:9][C:8]([H:15])([H:16])[H:17])=[O:11])([C:13]([H:18])[H:19])[C:14]([H:20])([H:21])[H:22],36.90777569299098
4182,[C:16]([O:17][C:18](=[O:19])[C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[C:23]([H:24])[H:25])([H:26])([H:27])[H:28].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[C:23]([C:20]([C:18]([O:17][C:16]([H:26])([H:27])[H:28])=[O:19])([C:21]([H:29])([H:30])[H:31])[C:22]([H:32])([H:33])[H:34])([H:24])[H:25].[O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],45.22706569434376
1918,[C:11]([C:12]([C:13]([H:14])[H:15])([C:16]([O-:17])=[N+:18]([H:23])[H:24])[H:22])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12]1([H:22])[C:13]([H:14])([H:15])[O:17][C:16]1=[N:18][H:24])([H:19])([H:20])[H:21].[N:1]([C:2]([O:3][H:23])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],56.493961919040885
864,[C:19]([C:20]([C:21]([H:22])[O:23][C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]1([N:7]([H:17])[H:18])[O:6][C:21]1([C:20]([C:19]([H:25])([H:26])[H:27])([H:28])[H:29])[H:22])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:23][C:24]([H:30])([H:31])[H:32],70.23537713853875
1865,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[H:12][C:20]([C:19]([O:18][C:16]([C:15]([H:21])([H:22])[H:23])=[O:17])[H:24])([H:25])[H:26],33.4931701127789
3180,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])[C:25](=[O:26])[O:27][C:28]([H:37])([H:38])[H:39])([H:32])[H:33])([H:29])([H:30])[H:31]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])[H:8].[H:9][C:23]([C:22]([C:21]([H:29])([H:30])[H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[C:25](=[O:26])[O:27][C:28]([H:37])([H:38])[H:39],28.50443115242524
2968,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([O:5][C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([H:27])[H:28])[C:19]([H:29])([H:30])[H:31])([H:11])[H:12])([H:8])([H:9])[H:10],64.3889470087015
2531,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][C:22]([C:21]([C:20]([H:24])([H:25])[H:26])[C:23]([H:29])([H:30])[H:31])([H:27])[H:28],29.783956169500016
4201,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17]([C:18](=[C:19]([H:29])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3]([O:4])([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[H:30])([H:8])([H:9])[H:10],55.44919886288699
